US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-{3-[1-(methylsulfonyl)-4-piperidinyl]-1,2,4-oxadiazol-5-yl}hexanoate
A solution of tert-butyl (3R)-3-{[({(Z)-amino[1-(methylsulfonyl)-4-piperidinyl]methylidene}amino)oxy]carbonyl}-6-cyclohexylhexanoate (preparation 42) (1.50 g, 1.83 mmol) in toluene (100 ml) was treated with pyridine (90 μl, 1.83 mmol) and anhydrous ZnCl2 (150 mg, 1.83 mmol) and heated at reflux for 20 hours. The reaction mixture was diluted with EtOAc and washed with H2O, brine and H2O, dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified on a silica column eluting with a solvent gradient of cyclohexane:EtOAc (90:10) gradually changing to (50:50). The oil was recrystallised from pentane to afford the title compound as a white solid (320 mg, 36%).

reactant | tert-butyl (3R)-3-{[({(Z)-amino[1-(methylsulfonyl)-4-piperidinyl]methylidene}amino)oxy]carbonyl}-6-cyclohexylhexanoate | 1.83 mmol, 1.50 g | N\C(\C1CCN(CC1)S(=O)(=O)C)=N/OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C24H43N3O6S
reactant | pyridine | 1.83 mmol, 90 μl | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | ZnCl2 | 1.83 mmol, 150 mg | [Cl-].[Cl-].[Zn+2]
product | tert-butyl (3R)-6-cyclohexyl-3-{3-[1-(methylsulfonyl)-4-piperidinyl]-1,2,4-oxadiazol-5-yl}hexanoate | 320 mg, 36% | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C1CCN(CC1)S(=O)(=O)C | C24H41N3O5S
